US06353006B1
To a solution of (4S)-2-(4-methoxycarbonyl-2-methylphenylimino)-3,4-diisobutyl-1,3-thiazolidine (prepared in a manner analogous to that described in Method D2a; 0.035 g, 0.097 mmol) in a mixture of MeOH (1.5 mL) and H2O (1.5 mL) was added LiOH (0.016 g, 0.39 mmol). The resulting mixture was stirred for 2 d at room temp., then was concentrated under reduced pressure. The residue was adjusted to pH 1 with a 1% HCl solution, then extracted with EtOAc (4×10 mL). The combined organic layers were sequentially washed with H2O (15 mL), a saturated NaCl solution (15 mL), and dried (Na2SO4). Concentration under reduced pressure gave (4S)-2-(4-carboxy-2-methylphenylimino)-3,4-diisobutyl-1,3-thiazolidine (0.034 g, 100%): TLC (40% EtOAc/hex) Rf 0.08. This material was used in the next step without further purification.

reactant | (4S)-2-(4-methoxycarbonyl-2-methylphenylimino)-3,4-diisobutyl-1,3-thiazolidine | COC(=O)C1=CC(=C(C=C1)N=C1SC[C@@H](N1CC(C)C)CC(C)C)C | C20H30N2O2S
reactant | LiOH | 0.39 mmol, 0.016 g | [Li+].[OH-]
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | H2O | 1.5 mL | O | H2O
product | (4S)-2-(4-carboxy-2-methylphenylimino)-3,4-diisobutyl-1,3-thiazolidine | 0.034 g, 100% | C(=O)(O)C1=CC(=C(C=C1)N=C1SC[C@@H](N1CC(C)C)CC(C)C)C | C19H28N2O2S
